US06355635B1
N,N-Dimethylsulfamoyl chloride (0.09 g) was added to a solution of 1-{5-[4-(4-Fluoro-phenyl)-1H-imidazol-2-yl]-pyridin-2-yl}-piperazine (0.2 g) and pyridine (0.05 g) in THF. The reaction mixture was held at room temperature overnight and then concentrated in vacuo. The residue was diluted with 1 N NaOH and the resultant mixture extracted with dichloromethane. The organics were extracted with 6N HCl, and the acidic extracts basified with 1 N NaOH. The basic aqueous layer was then extracted with dichloromethane. The organics were dried over magnesium sulfate and were concentrated. The residue was purified by flash column chromatography on silica (20% ethyl acetate in hexanes grading to ethyl acetate grading to dichloromethane) to provide 4-{5-[4-(4-Fluoro-phenyl)-1H-imidazol-2-yl]-pyridin-2-yl}-piperazine-1-sulfonic acid dimethylamide (0.11 g).

reactant | N,N-Dimethylsulfamoyl chloride | 0.09 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | 1-{5-[4-(4-Fluoro-phenyl)-1H-imidazol-2-yl]-pyridin-2-yl}-piperazine | 0.2 g | FC1=CC=C(C=C1)C=1N=C(NC1)C=1C=CC(=NC1)N1CCNCC1 | C18H18FN5
reactant | pyridine | 0.05 g | N1=CC=CC=C1 | C5H5N
solvent | THF | C1CCOC1 | C4H8O
product | 4-{5-[4-(4-Fluoro-phenyl)-1H-imidazol-2-yl]-pyridin-2-yl}-piperazine-1-sulfonic acid dimethylamide | 0.11 g | CN(S(=O)(=O)N1CCN(CC1)C1=NC=C(C=C1)C=1NC=C(N1)C1=CC=C(C=C1)F)C | C20H23FN6O2S
